US06239131B1
Preparation of 1-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-phenylurea
Phenyl isocyanate (110 mg) was added to a solution of 1-tert-butylcarbonylmethyl-2-oxo-3-amino-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (300 mg) in anhydrous tetrahydrofuran (10 ml), the mixture was stirred for 10 minutes at room temperature. The reaction mixture was concentrated under reduced pressure, etanol was added to the residue for crystallization, collected by filtration, to thereby obtain 336 mg of the title compound (Yield 83.9%).

reactant | Phenyl isocyanate | 110 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 1-tert-butylcarbonylmethyl-2-oxo-3-amino-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 300 mg | C(C)(C)(C)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C2CCCCC2)N)=O | C21H31N3O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-phenylurea | 336 mg, Yield 83.9% | C(C)(C)(C)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C2CCCCC2)NC(=O)NC2=CC=CC=C2)=O | C28H36N4O3
